US04940662
A solution of 2.2 g of L-lysine in 13.0 ml of ethyl alcohol and 1.6 ml of conc. sulfuric acid was heated under reflux at 90° C. for 5 hours, obtaining L-lysine ethyl ester in a yield of 76.5%. Separately, L-methionine ethyl ester was prepared from 0.8 g of L-methionine in the same manner as in Example 1. After 66 mg of papain and 6.6 mg of L-cysteine were dissolved in a solution of 1.8 g of sodium carbonate and 0.52 g of sodium hydrogen carbonate in 20 ml of water, 20 g of wheat gluten in limited amounts was added to the solution and mixed therewith. The previously prepared reaction solutions of L-lysine and L-methionine ethyl esters were all added to the protein system of wheat gluten, and the system was kept at 37° C. for 24 hours to effect plastein reaction. The rates of incorporation of L-lysine and L-methionine were 62.7% and 81.6%, respectively. At the end of the reaction, the reaction solution was diluted with water to a volume of 300 ml and adjusted to pH 7 with hydrochloric acid before it was subjected to repeated concentration operations for desalting and purification using a reverse osmosis membrane equipped small experimental apparatus (equipped with a DRS-10 flat membrane, manufactured by Daicell Chemical K.K.) under an operating pressure of 15 kg/cm2. The concentrate resulting from the reverse osmosis treatment was again diluted with water to a volume of 400 ml and adjusted to pH 2.0 with phosphoric acid. After 0.4 g of pepsin was added to the solution, the hydrolytic reaction was carried out for 3 hours. Thereafter, 0.4 g of orientase was added and the hydrolytic reaction was continued for an additional 30 hours. The reaction solution was heated to 90° C. for 10 minutes and then centrifuged under 2000G to remove the solids. The supernatant was freeze dried to yield 18.3 g of a low-molecular weight peptide mixture. This product had an average molecular weight of 350 and contained 8.9% of free amino acids, and the gel filtration showed that it contained 86.2% of compounds with a molecular weight of 700 or lower. Table 2 shows the amino acid composition of the starting protein, wheat gluten and the low-molecular weight peptide mixture produced therefrom. As seen from Table 2, the low-molecular weight peptide mixture had the increased contents of L-lysine and L-methionine as compared with the starting protein.

reactant | L-methionine | 0.8 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | L-cysteine | 6.6 mg | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium hydrogen carbonate | 0.52 g | C(O)([O-])=O.[Na+]
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | sodium carbonate | 1.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
product | L-methionine ethyl ester | C(C)OC([C@@H](N)CCSC)=O | C7H15NO2S
